US06693208B2
A suspension of 4-nitro-2-fluorobenzaldehyde (3.16 g, 18.7 mmol), malonic acid (2.14 g, 21 mmol) pyridine (catalytic) and ethanol (10 mL) was heated to reflux for 6 hours. The suspension became a clear solution upon heating. Upon cooling to room temperature solids formed and were isolated by filtration. The solids were washed with cool (15° C.) ethanol and then with 1N HCl and dried, giving 3.32 g 4-nitro-2-fluorocinnamic acid (90% yield).

reactant | 4-nitro-2-fluorobenzaldehyde | 18.7 mmol, 3.16 g | [N+](=O)([O-])C1=CC(=C(C=O)C=C1)F | C7H4FNO3
reactant | malonic acid | 21 mmol, 2.14 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-nitro-2-fluorocinnamic acid | 3.32 g, 90% yield | [N+](=O)([O-])C1=CC(=C(C=CC(=O)O)C=C1)F | C9H6FNO4
